US08563575B2
139c) 1-ethyl-3-[2-(5-methylpyridin-2-yl)-2H-indazol-5-yl]-1,3-dihydro-2H-imidazo[4,5-b]pyridin-2-one
A mixture of 3-[2-(5-methylpyridin-2-yl)-2H-indazol-5-yl]-1,3-dihydro-2H-imidazo[4,5-b]pyridin-2-one (31 mg) and iodoethane (15.5 mg) in DMF (2 mL) was stirred at 50° C. for 3 h, treated with water, and extracted with AcOEt. The organic layer was dried over MgSO4 and concentrated in vacuo. The residue was chromatographed on silica gel eluting with AcOEt/Hexane. The product was crystallized from AcOEt/Hexane to give the title compound as white crystals (5.4 mg).

reactant | 3-[2-(5-methylpyridin-2-yl)-2H-indazol-5-yl]-1,3-dihydro-2H-imidazo[4,5-b]pyridin-2-one | 31 mg | CC=1C=CC(=NC1)N1N=C2C=CC(=CC2=C1)N1C(NC=2C1=NC=CC2)=O | C19H14N6O
reactant | iodoethane | 15.5 mg | ICC | C2H5I
reactant | water | O | H2O
solvent | DMF | 2 mL | CN(C)C=O | C3H7NO
product | 1-ethyl-3-[2-(5-methylpyridin-2-yl)-2H-indazol-5-yl]-1,3-dihydro-2H-imidazo[4,5-b]pyridin-2-one | 5.4 mg | C(C)N1C(N(C2=NC=CC=C21)C2=CC1=CN(N=C1C=C2)C2=NC=C(C=C2)C)=O | C21H18N6O
